US09193720B2
The diacetoxypalladium (4.0 mg, 0.018 mmol) was added to a argon purged and degassed solution of (S)-isopropyl 2-(5-bromo-4-(4-fluoro-4-methylpiperidin-1-yl)-2,6-dimethylpyridin-3-yl)-2-(tert-butoxy)acetate (85 mg, 0.18 mmol), 2-(4-(4-fluorophenethoxy)phenyl)-6-methyl-1,3,6,2-dioxazaborocane-4,8-dione (73.3 mg, 0.197 mmol), and 2-dicyclohexylphosphino-2′,6′-dimethoxy-biphenyl (14.7 mg, 0.036 mmol), and potassium phosphate tribasic (286 mg, 1.34 mmol) in dioxane (2 mL) and water (0.4 mL) and stirred in a screw-capped pressure vessel for 16 h at 90° C. The reaction was allowed to cool, diluted with EtOAc, and the organic layer was washed with brine, and dried (MgSO4). The crude product was charged (DCM) to a 40 g ISCO silica gel cartridge and gradient elution (0-40% EtOAc/hexanes) using an Isolera chromatography station gave (S)-isopropyl 2-(tert-butoxy)-2-(4-(4-fluoro-4-methylpiperidin-1-yl)-5-(4-(4-fluorophenethoxy)phenyl)-2,6-dimethylpyridin-3-yl)acetate 85.1 mg (78%) as a mixture of diastereomers. 1H NMR (500 MHz, DMSO-d6) δ 7.40-7.37 (m, 2H), 7.22-7.20 (m, 1H), 7.14 (t, J=9.2 Hz, 2H), 7.02-7.00 (m, 3H), 5.94 (br. s, 1H), 4.96-4.93 (m, 1H), 4.22 (t, J=7.3 Hz, 2H), 3.41-3.39 (m, 4H), 3.06 (t, J=6.6 Hz, 2H), 2.47 (br. s, 3H), 2.05 (s, 3H), 1.69-1.43 (m, 4H), 1.24 (br. s, 3H), 1.18 (d, J=6.2 Hz, 3H), 1.13 (br. s, 12H). UPLC (M+H)=609.4.

reactant | (S)-isopropyl 2-(5-bromo-4-(4-fluoro-4-methylpiperidin-1-yl)-2,6-dimethylpyridin-3-yl)-2-(tert-butoxy)acetate | 0.18 mmol, 85 mg | BrC=1C(=C(C(=NC1C)C)[C@@H](C(=O)OC(C)C)OC(C)(C)C)N1CCC(CC1)(C)F | C22H34BrFN2O3
reactant | 2-(4-(4-fluorophenethoxy)phenyl)-6-methyl-1,3,6,2-dioxazaborocane-4,8-dione | 0.197 mmol, 73.3 mg | FC1=CC=C(CCOC2=CC=C(C=C2)B2OC(CN(CC(O2)=O)C)=O)C=C1 | C19H19BFNO5
reactant | 2-dicyclohexylphosphino-2′,6′-dimethoxy-biphenyl | 0.036 mmol, 14.7 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
reactant | potassium phosphate tribasic | 1.34 mmol, 286 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.4 mL | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | diacetoxypalladium | 0.018 mmol, 4.0 mg | C(C)(=O)O[Pd]OC(C)=O
product | (S)-isopropyl 2-(tert-butoxy)-2-(4-(4-fluoro-4-methylpiperidin-1-yl)-5-(4-(4-fluorophenethoxy)phenyl)-2,6-dimethylpyridin-3-yl)acetate | 85.1 mg, 78% | C(C)(C)(C)O[C@H](C(=O)OC(C)C)C=1C(=NC(=C(C1N1CCC(CC1)(C)F)C1=CC=C(C=C1)OCCC1=CC=C(C=C1)F)C)C | C36H46F2N2O4
